US08431607B2
To a 10 mL reaction tube fitted with a screw cap is charged with (R)-5-[3-(trifluoromethyl)phenyl]pyrrolidin-2-one (90 mg, 0.39 mmol) and 1,4-dioxane (3 mL). 1-(4-iodophenoxy)-4-chlorobenzene (157 mg, 0.47 mmol) is then added, followed by copper iodide (15 mg, 0.078 mmol), N,N′-1,2-trans-dimethylcyclohexane-1,2-diamine (11.2 mg, 0.078 mmol), and K3PO4 (167 mg, 0.78 mmol). The system is degassed with argon then sealed and heated to 110° C. for 28 h. The reaction is cooled to room temperature, dissolved in ethyl acetate and washed with water and brine. The organic phase is dried over Na2SO4, filtered and concentrated in vacuo. Purification on silica gel (0-30% ethyl acetate in hexane) gave (R)-1-[4-(4-chlorophenoxy)phenyl]-5-[3-(trifluoromethyl)phenyl]pyrrolidin-2-one as a slightly yellow oil (102 mg, 60%). 1H NMR (CDCl3) δ (ppm) 7.60-7.50 (m, 1H), 7.49-7.37 (m, 3H), 7.34-7.28 (m, 2H), 7.27-7.21 (m, 2H), 6.91-6.67 (m, 4H), 5.28 (dd, J=6.8, 5.6 Hz, 1H), 2.84-2.59 (m, 3H), 2.07-1.94 (m, 1H). HPLC-MS calculated for C23H17ClF3NO2 (M+H+) 432.09, found 432.10.

reactant | (R)-5-[3-(trifluoromethyl)phenyl]pyrrolidin-2-one | 0.39 mmol, 90 mg | FC(C=1C=C(C=CC1)[C@H]1CCC(N1)=O)(F)F | C11H10F3NO
reactant | 1-(4-iodophenoxy)-4-chlorobenzene | 0.47 mmol, 157 mg | IC1=CC=C(OC2=CC=C(C=C2)Cl)C=C1 | C12H8ClIO
reactant | K3PO4 | 0.78 mmol, 167 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
catalyst | copper iodide | 0.078 mmol, 15 mg | [Cu](I)I
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | (R)-1-[4-(4-chlorophenoxy)phenyl]-5-[3-(trifluoromethyl)phenyl]pyrrolidin-2-one | ClC1=CC=C(OC2=CC=C(C=C2)N2C(CC[C@@H]2C2=CC(=CC=C2)C(F)(F)F)=O)C=C1 | C23H17ClF3NO2
